US04268301
2-Amino-3-chlorothiophenol (1.6 g) and pyridine (0.8 g) were dissolved in benzene (20 ml), and chloroacetyl chloride (1.2 g) was gradually added dropwise thereto at room temperature (25° C.) with stirring. After the addition was finished, the reaction mixture was stirred at room temperature for 30 minutes, and the solvent was removed under reduced pressure. The residue obtained was washed with water, dried and recrystallized from chloroform to obtain 2.0 g of 3-chloro-2-chloroacetylaminothiophenol (m.p. 186°-187° C.).

reactant | 2-Amino-3-chlorothiophenol | 1.6 g | NC1=C(C=CC=C1Cl)S | C6H6ClNS
reactant | pyridine | 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 1.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-chloro-2-chloroacetylaminothiophenol | 2.0 g | ClC=1C(=C(C=CC1)S)NC(CCl)=O | C8H7Cl2NOS
